US09029411B2
A mixture of methyl 3-amino-4-cyano-5-(methylsulfinyl)thiophene-2-carboxylate/methyl 3-amino-4-cyano-5-(methylsulfonyl)thiophene-2-carboxylate (35 g, 134 mmol) and morpholine (70.4 mL) in THF (350 mL) was allowed to stir at reflux for 3 h. The reaction mixture was allowed to cool overnight and was concentrated to yield an oil which was triturated with diethyl ether. A precipitate formed and was filtered, washed with sat NaHCO3 and water to give methyl 3-amino-4-cyano-5-morpholin-4-ylthiophene-2-carboxylate (35.7 g, 99%). LCMS: (AA) ES+ 268.0. 1H NMR (400 MHz, d6-DMSO) δ: 6.65 (s, 2H), 3.69-3.81 (m, 4H), 3.70 (s, 3H) and 3.50-3.62 (m, 4H).

reactant | methyl 3-amino-4-cyano-5-(methylsulfinyl)thiophene-2-carboxylate methyl 3-amino-4-cyano-5-(methylsulfonyl)thiophene-2-carboxylate | 134 mmol, 35 g | NC1=C(SC(=C1C#N)S(=O)C)C(=O)OC.NC1=C(SC(=C1C#N)S(=O)(=O)C)C(=O)OC
reactant | morpholine | 70.4 mL | N1CCOCC1 | C4H9NO
solvent | THF | 350 mL | C1CCOC1 | C4H8O
product | methyl 3-amino-4-cyano-5-morpholin-4-ylthiophene-2-carboxylate | 35.7 g, 99% | NC1=C(SC(=C1C#N)N1CCOCC1)C(=O)OC | C11H13N3O3S
